US07951963B2
To toluene (3 mL) solution of 0.21 g of ethyl cyanoacetate were added 0.41 g of potassium tert-butoxide, 0.30 g of 5-bromobenzothiophene and 0.02 g of tetrakis(triphenylphosphine)palladium(0), which was then refluxed for 7.5 hours. To the reaction mixture was added water, and the pH was adjusted to 2 with hydrochloric acid. Thereto was added ethyl acetate, and insoluble matter was filtered off. The organic layer was separated, washed with water, and dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to provide 0.16 g of ethyl 2-(1-benzothiophen-5-yl)-2-cyanoacetate as pale yellow solid form.

reactant | ethyl cyanoacetate | 0.21 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium tert-butoxide | 0.41 g | CC(C)([O-])C.[K+]
reactant | 5-bromobenzothiophene | 0.30 g | BrC=1C=CC2=C(C=CS2)C1 | C8H5BrS
reactant | hydrochloric acid | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(1-benzothiophen-5-yl)-2-cyanoacetate | 0.16 g | S1C=CC2=C1C=CC(=C2)C(C(=O)OCC)C#N | C13H11NO2S
